US08633183B2
A-31) 5-Ethynyl-4-methyl-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP3 starting from 1.8 g (8.8 mmol) 4-methyl-5-trimethylsilanylethynyl-pyridin-2-ylamine and 609 mg (4.4 mmol) K2CO3 in 315 mL MeOH. The product is purified by chromatography on silica gel using a DCM/MeOH gradient. Yield: 1.0 g (86%).

reactant | 4-methyl-5-trimethylsilanylethynyl-pyridin-2-ylamine | 8.8 mmol, 1.8 g | CC1=CC(=NC=C1C#C[Si](C)(C)C)N | C11H16N2Si
reactant | K2CO3 | 4.4 mmol, 609 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 315 mL | CO | CH4O
product | 5-Ethynyl-4-methyl-pyridin-2-ylamine | C(#C)C=1C(=CC(=NC1)N)C | C8H8N2
